US06518283B1
Methyl (Z)-2-[(tert-butoxycarbonyl)amino]-3-(3-methoxy-4-nitrophenyl)-2-propenoate
Activated manganese IV oxide (26 g) was added to a mixture of 3-methoxy-4-nitrobenzylalcohol (5.26 g, 28.7 mmol), N-(t-Butyloxycarbonyl)-α-(diethylphosphono)glycine methylester (described in WO99/47547) (8.91 g, 27.4 mmol) and DBU (4.29 ml, 28.7 mmol) in DCM (150 ml) at 0°. The mixture was stirred at RT overnight then filtered. The filtrate was washed with dil. HCl, dried (Na2SO4) and evaporated in vacuo. Recrystallisation from MeOH gave the title compound as pale brown crystals (4.6 g). δH (DMSO d6) 8.94 (1H, br s), 7.91 (1H, d, J 8.4 Hz), 7.56 (1H, d, J 1.5 Hz), 7.36 (1H, dd, J 8.5, 1.3 Hz), 7.12 (1H, br s), 3.92 (3H, s), 3.75 (3H, s), 1.37 (9H, s). m/z (ES+, 70V) 375 (M++Na).

reactant | 3-methoxy-4-nitrobenzylalcohol | 28.7 mmol, 5.26 g | COC=1C=C(CO)C=CC1[N+](=O)[O-] | C8H9NO4
reactant | N-(t-Butyloxycarbonyl)-α-(diethylphosphono)glycine methylester | COC(C(NC(=O)OC(C)(C)C)P(=O)(OCC)OCC)=O | C12H24NO7P
reactant | DBU | 28.7 mmol, 4.29 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese | 26 g | [Mn] | Mn
product | Methyl (Z)-2-[(tert-butoxycarbonyl)amino]-3-(3-methoxy-4-nitrophenyl)-2-propenoate | 4.6 g | C(C)(C)(C)OC(=O)N\C(\C(=O)OC)=C/C1=CC(=C(C=C1)[N+](=O)[O-])OC | C16H20N2O7
